US04883815
A suspension of 127 g (0.7 mol) of 6-chloro-2-tetralone, 70.0 g (0.7 mol) of 3,3-dimethylacrylamide, 63.6 ml (0.42 mol) of tetramethoxysilane and 85.3 g (0.56 mol) of cesium fluoride in 400 ml of toluene is boiled under reflux for 18 hours. Distillation of the solvent in a vacuum, extraction with methylene chloride/water, chromatography on silica gel with ethyl acetate/hexane (1:1) and recrystallization from methylene chloride/hexane yields 8-chloro-1,1-dimethyl-1,2,5,6-tetrahydrobenzo[f]-quinolin-3-one as white crystals with melting point 213°.

reactant | 6-chloro-2-tetralone | 0.7 mol, 127 g | ClC=1C=C2CCC(CC2=CC1)=O | C10H9ClO
reactant | 3,3-dimethylacrylamide | 0.7 mol, 70.0 g | CC(=CC(=O)N)C | C5H9NO
reactant | tetramethoxysilane | 0.42 mol, 63.6 ml | CO[Si](OC)(OC)OC | C4H12O4Si
reactant | cesium fluoride | 0.56 mol, 85.3 g | [F-].[Cs+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 8-chloro-1,1-dimethyl-1,2,5,6-tetrahydrobenzo[f]-quinolin-3-one | ClC1=CC2=C(C=3C(CC(NC3CC2)=O)(C)C)C=C1 | C15H16ClNO
